US08455528B2
To the solution of 1-methyl-4-[4-(methylsulfonyl)phenyl]-1H-imidazole (2.3 g, 9.73 mmol) in CH2Cl2 (6 ml) was added TFA (3.0 ml, 38.9 mmol), and NIS (2.41 g, 10.71) at rt. After being stirred at rt for 3 h, the reaction mixture was diluted with CH2Cl2, quenched with NaHCO3 (aq), washed with aq Na2S2O3, water and brine. Dried over Na2SO4, filtered and concentrated to afford 5-iodo-1-methyl-4-[4-(methylsulfonyl)phenyl]-1H-imidazole (3.4 g) which was used in the next step without further purification. LCMS: [M+1]+=363.0

reactant | 1-methyl-4-[4-(methylsulfonyl)phenyl]-1H-imidazole | 9.73 mmol, 2.3 g | CN1C=NC(=C1)C1=CC=C(C=C1)S(=O)(=O)C | C11H12N2O2S
reactant | TFA | 38.9 mmol, 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NIS | 2.41 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 5-iodo-1-methyl-4-[4-(methylsulfonyl)phenyl]-1H-imidazole | 3.4 g | IC1=C(N=CN1C)C1=CC=C(C=C1)S(=O)(=O)C | C11H11IN2O2S
